US07109200B2
1-[4-Amino-1-(4-pyridyl)-4-piperidylmethyl]-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone dihydrochloride
Iodotrimethylsilane (2.51 ml) was added to a solution of 1-[4-benzyloxycarbonylamino-1-(4-pyridyl)-4-piperidylmethyl]-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone (4.58 g) in dichloromethane (50 ml), and the mixture was stirred at room temperature for 4 hours. Methanol (10 ml) and 4N hydrochloric acid solution in ethyl acetate (8 ml) were added thereto. Methanol was added to obtain a solution, followed by concentration under reduced pressure. Dilute hydrochloric acid was added to the residue, and the mixture was washed with ether. The aqueous layer was made basic with 6N sodium hydroxide, followed by extraction with ethyl acetate. The organic layer was washed successively with an aqueous sodium bicarbonate solution and an aqueous saturated sodium chloride solution, dried, and concentrated. Dilute hydrochloric solution was added to the residue, which was purified by CHP20 column chromatography (water:acetonitrile:1N hydrochloric acid=100:0:1→80:20:1) to obtain the colorless amorphous title compound (3.66 g).

reactant | Iodotrimethylsilane | 2.51 ml | I[Si](C)(C)C | C3H9ISi
reactant | 1-[4-benzyloxycarbonylamino-1-(4-pyridyl)-4-piperidylmethyl]-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone | 4.58 g | C(C1=CC=CC=C1)OC(=O)NC1(CCN(CC1)C1=CC=NC=C1)CN1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O | C33H34ClN5O5S
reactant | Methanol | 10 ml | CO | CH4O
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
product | 1-[4-Amino-1-(4-pyridyl)-4-piperidylmethyl]-4-(6-chloronaphthalene-2-sulfonyl)-2-piperazinone dihydrochloride | 3.66 g | Cl.Cl.NC1(CCN(CC1)C1=CC=NC=C1)CN1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)=O | InChI=1S/C25H28ClN5O3S.2ClH/c26-21-3-1-20-16-23(4-2-19(20)15-21)35(33,34)31-14-13-30(24(32)17-31)18-25(27)7-11-29(12-8-25)22-5-9-28-10-6-22;;/h1-6,9-10,15-16H,7-8,11-14,17-18,27H2;2*1H
